simulator lang=spectre
global 0

ahdl_include "../submission/correlated_double_sampler_top.va"
ahdl_include "../submission/reset_sample_latch.va"
ahdl_include "../submission/signal_sample_latch.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.31 7n 0.31 13n 0.72 23n 0.72 30n 0.73 34n 0.73 37n 0.28 47n 0.28 76n 0.57]
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=5n width=2n delay=2.4n rise=60p fall=60p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.7n 0.9 1.8n 0 50n 0 50.1n 0.9 53n 0.9 53.1n 0 76n 0]
Vsample_reset (sample_reset 0) vsource type=pwl wave=[0 0 6n 0 6.1n 0.9 10n 0.9 10.1n 0 29n 0 29.1n 0.9 34n 0.9 34.1n 0 76n 0]
Vsample_signal (sample_signal 0) vsource type=pwl wave=[0 0 12n 0 12.1n 0.9 16n 0.9 16.1n 0 36n 0 36.1n 0.9 41n 0.9 41.1n 0 76n 0]

XDUT (vin clk rst sample_reset sample_signal vout offset_dbg valid) correlated_double_sampler_top


tran tran stop=76n maxstep=80p
save vin clk rst sample_reset sample_signal vout offset_dbg valid
